US06790540B2
The reaction of 13.71 g (0.10 mole) of anthranilic acid with 10.91 g (0.10 mole) of ortho-aminophenol was carried out in 100 ml of polyphosphoric acid at 200° C. After 10 hours from the start of the reaction, the reaction mixture was poured into ice water and the precipitate was filtered and dried. The solid thus obtained was purified by column chromatography and concentrated to give 10.28 g (0.048 mole, 49%) of ortho-aminophenylbenzoxazole.

reactant | anthranilic acid | 0.10 mole, 13.71 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | ortho-aminophenol | 0.10 mole, 10.91 g | NC1=C(C=CC=C1)O | C6H7NO
product | ortho-aminophenylbenzoxazole | 0.048 mole, 10.28 g, 49% | NC1=C(C=CC=C1)C=1OC2=C(N1)C=CC=C2 | C13H10N2O
